US09255100B2
6-chloro-3-iodo-N-(2-methylpropyl)imidazo[1,2-b]pyridazin-8-amine
To a solution of 200 mg (0.558 mmol) 8-bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine which was prepared according to intermediate example 1c in 4 mL N,N-dimethylformamide were added 122 mg 2-methylpropan-1-amine and the mixture was stirred at rt overnight. Water was added and the mixture was extracted with dichloromethane and methanol. The organic phase was washed with water and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 188 mg (96%) of the title compound.

reactant | 8-bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine | 0.558 mmol, 200 mg | BrC=1C=2N(N=C(C1)Cl)C(=CN2)I | C6H2BrClIN3
reactant | 2-methylpropan-1-amine | 122 mg | CC(CN)C | C4H11N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-chloro-3-iodo-N-(2-methylpropyl)imidazo[1,2-b]pyridazin-8-amine | 188 mg, 96% | ClC=1C=C(C=2N(N1)C(=CN2)I)NCC(C)C | C10H12ClIN4
